US07723367B2
2-fluoro-1-isothiocyanato-3-trifluoromethyl-benzene
To a two phase solution of 2-fluoro-3-trifluoromethyl-phenylamine (2 g, 11.17 mmole) in dichloromethane (40 ml) and sodium bicarbonate (6.57 g, 78.19 mmole) in water (30 ml) at 0° C. was added dropwise a solution of thiophosgene (1.28 g, 11.17 mmole) in dichloromethane (10 ml). After 2 hrs, the organic layer was separated, washed sequentially with 1M NaHCO3, brine and water. The organic layer was dried over Na2SO4, filtered and concentrated to yield 2.2 g (91%) of product as a viscous liquid. MS (ESI+) m/z 221 (M+H)+.

reactant | 2-fluoro-3-trifluoromethyl-phenylamine | 11.17 mmole, 2 g | FC1=C(C=CC=C1C(F)(F)F)N | C7H5F4N
reactant | sodium bicarbonate | 78.19 mmole, 6.57 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 11.17 mmole, 1.28 g | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-fluoro-1-isothiocyanato-3-trifluoromethyl-benzene | 2.2 g, 91% | FC1=C(C=CC=C1C(F)(F)F)N=C=S | C8H3F4NS
